US09359329B2
A mixture of 0.5 g (2.27 mmol) of 2-chloro-4-(pyridin-3-ylmethoxy)pyridine and 2 mL (40.5 mmol) of hydrazine hydrate is heated at 80° C. for 12 hours. The reaction medium is then taken up in 30 mL of water and extracted with EtOAc (3×30 mL). The organic phases are combined, washed with brine (20 mL) and then dried over Na2SO4, filtered, concentrated under reduced pressure and purified on silica gel, eluting with a 95/5 DCM/MeOH mixture. 197 mg of 2-hydrazinyl-4-(pyridin-3-ylmethoxy)pyridine are obtained in the form of a yellow oil.

reactant | 2-chloro-4-(pyridin-3-ylmethoxy)pyridine | 2.27 mmol, 0.5 g | ClC1=NC=CC(=C1)OCC=1C=NC=CC1 | C11H9ClN2O
reactant | hydrazine hydrate | 40.5 mmol, 2 mL | O.NN
solvent | water | 30 mL | O | H2O
product | 2-hydrazinyl-4-(pyridin-3-ylmethoxy)pyridine | 197 mg, Yield=37% | N(N)C1=NC=CC(=C1)OCC=1C=NC=CC1 | C11H12N4O
